US06995157B2
To a suspension of 3.15 g of sodium hydride (60% in mineral oil, 78.8 mmol) in 70 mL of DMF at 0° C. was added 9.76 g (75 mmol) of 2,4-thiazolidinedione portion-wise. The reaction mixture was stirred for 20 minutes, then 17.5 g of 2-bromo-4′-chloroacetophenone (75 mmol) was added. The reaction was allowed to warm to room temperature and stirred for 5 hours. Ethyl acetate and water were added, the organic phase was separated, and washed with water and brine. The combined aqueous extracts were washed with additional ethyl acetate which was then washed with water and brine and combined with the rest of the organic layer. The ethyl acetate phases were dried over magnesium sulfate, filtered and stripped to give 23 g of crude product. Recrystallization from 1:1 toluene:hexane gave 16.25 g of 3-(2-(4-chlorophenyl)-2-oxo-ethyl)-thiazolidine-2,4-dione, (85% yield) mp 122–124° C.

reactant | sodium hydride | 78.8 mmol, 3.15 g | [H-].[Na+]
reactant | 2,4-thiazolidinedione | 75 mmol, 9.76 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 2-bromo-4′-chloroacetophenone | 75 mmol, 17.5 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 3-(2-(4-chlorophenyl)-2-oxo-ethyl)-thiazolidine-2,4-dione | 16.25 g, 85% yield | ClC1=CC=C(C=C1)C(CN1C(SCC1=O)=O)=O | C11H8ClNO3S
